US07569536B2
Isonicotinoyl chloride hydrochloride (669 mg, 3.76 mmol, commercially available product) and triethylamine (773 μl, 5.58 mmol) were sequentially added at 0° C. to a dichloromethane (5 ml) solution of 1-[2-amino-4-(trifluoromethyl)phenyl]indoline (518 mg, 1.86 mmol), obtained as described in Referential Example 19-2. The resulting mixture was warmed to room temperature and stirred for 2.5 hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (50 g, hexane/ethyl acetate=1/1). Thus, N-[2-(1-indolinyl)-5-(trifluoromethyl)phenyl]isonicotinamide (GIF-0619) (643 mg, 90.1%) was yielded as a colorless solid.

reactant | Isonicotinoyl chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | triethylamine | 5.58 mmol, 773 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | 1-[2-amino-4-(trifluoromethyl)phenyl]indoline | 1.86 mmol, 518 mg | NC1=C(C=CC(=C1)C(F)(F)F)N1CCC2=CC=CC=C12 | C15H13F3N2
solvent | Water | O | H2O
product | N-[2-(1-indolinyl)-5-(trifluoromethyl)phenyl]isonicotinamide | 643 mg, 90.1% | N1(CCC2=CC=CC=C12)C1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=NC=C1)=O | C21H16F3N3O
